2197-09-12 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2197-9-11**] 01:31 PM
   SENT FROM ed
 URINE CULTURE - At [**2197-9-11**] 01:32 PM
   FROM ED
 ARTERIAL LINE - START [**2197-9-11**] 04:49 PM
   - MRI L-spine: PRELIM read lateral impingement on the L5 nerve root, no
   other compression
   - Spine c/s: reviewed MRI and saw pt, no OR now, +/- Decadron given pt
   is difficult exam
   - Renal recs: Pamidronate, calcitonin, D5W to correct sodium
   - Urology: send cytology, may help w/ tissue later, likely more of an
   Onc case
   -
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2197-9-11**] 04:34 PM
   Ciprofloxacin - [**2197-9-12**] 12:09 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-9-11**] 11:27 PM
   Morphine Sulfate - [**2197-9-12**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-9-12**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 112 (100 - 115) bpm
   BP: 149/72(95) {111/65(87) - 159/96(105)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  5,718 mL
                                                                  1,414 mL
   PO:
             TF:
   IVF:
                                                                  2,368 mL
                                                                  1,414 mL
   Blood products:
   Total out:
                                                                  6,400 mL
                                                                  1,410 mL
   Urine:
                                                                  1,200 mL
                                                                  1,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -682 mL
                                                                      4 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.42///31/
   Physical Examination
   Gen: Awake, alert, somewhat confused
   HEENT: PERRL; MM dry
   Neck: supple
   Lungs: CTAB
   Heart: s1s2 RRR
   Abd: soft, NT/ND
   Neuro: A&O x 1, MAE, grip strength 5/5, LE distal strength 5/5, toes
   downgoing, trace DTRs LE
   [**Name2 (NI) 610**] / Radiology
   377 K/uL
   8.4 g/dL
   134 mg/dL
   2.3 mg/dL
   31 mEq/L
   3.3 mEq/L
   105 mg/dL
   126 mEq/L
   163 mEq/L
   26.8 %
   20.8 K/uL
        [image002.jpg]
                             [**2197-9-11**]  02:21 PM
                             [**2197-9-11**]  05:05 PM
                             [**2197-9-12**]  12:25 AM
   WBC
   20.8
   Hct
   26.8
   Plt
   377
   Cr
   2.4
   2.3
   2.3
   TropT
   <0.01
   0.01
   Glucose
   109
   115
   134
   Other [**Year (4 digits) **]: PT / PTT / INR:18.0/23.2/1.6, CK / CKMB /
   Troponin-T:142/7/0.01, ALT / AST:36/16, Alk Phos / T Bili:107/0.7,
   Amylase / Lipase:29/35, Differential-Neuts:90.5 %, Lymph:6.6 %,
   Mono:2.7 %, Eos:0.2 %, Albumin:3.0 g/dL, Ca++:14.8 mg/dL, Mg++:2.9
   mg/dL, PO4:4.6 mg/dL
   IMAGING:
   - L-spine MRI (PRELIM read): lateral impingement on the L5 nerve root
   by vertebral expansile lesion
   MICRO:
   - Blood cx [**9-11**]: pending
   - Urine cx [**9-11**]: pending
   Assessment and Plan
   62 yo M with fever, change in MS, ARF, and calififed mass in the
   bladder and evidence of scattered lytic lesions.
   .
   # Fever: Pt with UTI, treated empirically in ED with broad spectrum
   abx. Has not dropped BP since arrival, lactate down to 1.8 from 4.4
   after IVF, so less likely to be septic now. Other possibilities include
   CNS infection, although competing causes for both MS as well as fever;
   CXR negative for PNA but dry so infiltrate could blossom, but no
   reported cough.
   - Follow up urine cx
   - Cipro for UTI
   - Blood cx sent from ED
   .
   # Hypernatremia: Total free water deficit approx 6 L. FeNa is < 1%
   suggesting largely pre-renal. Urine osms 262. Appears profoundly
   dehydrated on exam.
   - Switched from
 NS to D5W to correct Na
   - Slowly making progress
   - Goal correction is
 mEq every hour
   .
   # ARF: Pt was obstructed intially given such large UOP after foley
   placed. FeNa pre-renal.
   - No hydro by CT scan
   - Appreciate Renal recs
   - Avoid nephroxins
   - Continue hydration
   .
   # Lytic lesions: Likely mets from bladder ca, but MM also in
   differential. One met noted on L5 vertebra with thecal sac indentation.
   Difficult neuro exam and pt unable to indicate whether he is having sxs
   related to compression but MAE, nl rectal tone; however given urinary
   incontinence, concern for neuro involevement.
   - Stat MRI to evaluate for cauda/cord compression: one nerve root
   impingment
   - Spine consult
   - Decadron given b/c exam unreliable
   - Elevated PSA ? prostate ca
   - SPEP/UPEP: pending
   .
   # Mental status: Received Haldol and morphine in ED in order to obtain
   scans. Now in MICU pt is very somnolent, not following commands.
   Suspect multifactorial etiology: fever/UTI, hypernatremia,
   hypercalcemia. CNS infection is possibility, although low suspicion.
   Now improving this AM.
   - IVF
   - Treat UTI
   - Treat hypercalcemia
   .
   # Bladder mass: New dx. ? primary bladder vs prostate-related (elevated
   PSA).
   - Urine cytology sent
   - Urology c/s: following, will assist with tissue
   - Onc c/s once cytology/tissue obtained
   .
   # Anemia: Guaiac negative in ED.
   - Send off iron studies: does not appear to have iron deficiency anemia
   - Transfuse for Hct < 21 (likely Hct drop in setting of fluid
   resuscitation)
   .
   # Hypercalcemia: Ca [**02**] in setting of lytic lesions seen on CT, which
   could also be contributing to MS.
   - Continue hydration
   - Send off PTH (normal), PTHR-peptide, Vit D, 1,25, TSH (normal)
   - SPEP, UPEP for possible MM: pending
   - Pamidronate and calcitonin per Renal recs
   - Hold diuretic given ARF
   .
   # EKG changes: STD in infero lateral leads, may be rate-related
   ischemia, no STE, first set CE negative.
   - Cycle CE
   .
   # Deconditioning: Pt appears malnourished and chronically ill. Albumin
   low at 2.9
   - Will need TF: hold for now (at risk for refeeding)
   .
   # FEN: NPO for now.
   .
   # PPx: IV H2 blocker, heparin sq, boots
   .
   # Access: PIVs
   .
   # Code status: FULL, confirmed with wife and daughters
   .
   # Communication: Wife [**Name (NI) 203**] [**Name (NI) 1154**] ([**Telephone/Fax (1) 1155**] (cell)
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control: Regular insulin sliding scale
   Lines:
   18 Gauge - [**2197-9-11**] 01:29 PM
   20 Gauge - [**2197-9-11**] 01:30 PM
   Arterial Line - [**2197-9-11**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-9-11**] 01:29 PM
   20 Gauge - [**2197-9-11**] 01:30 PM
   Arterial Line - [**2197-9-11**] 04:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2197-09-13 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2197-9-11**] 04:34 PM
   Ciprofloxacin - [**2197-9-12**] 11:47 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2197-9-12**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2197-9-12**] 11:47 PM
   Morphine Sulfate - [**2197-9-13**] 02:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-9-13**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.2
   HR: 101 (83 - 112) bpm
   BP: 136/67(89) {122/61(80) - 168/77(103)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  5,640 mL
                                                                  1,027 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  5,580 mL
                                                                  1,027 mL
   Blood products:
   Total out:
                                                                  3,682 mL
                                                                    970 mL
   Urine:
                                                                  3,682 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,958 mL
                                                                     57 mL
   Respiratory support
   SpO2: 96%
   ABG: 7.47///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   300 K/uL
   7.6 g/dL
   132 mg/dL
   1.5 mg/dL
   30 mEq/L
   3.1 mEq/L
   51 mg/dL
   116 mEq/L
   152 mEq/L
   22.9 %
   18.1 K/uL
        [image002.jpg]
                             [**2197-9-11**]  02:21 PM
                             [**2197-9-11**]  05:05 PM
                             [**2197-9-12**]  12:25 AM
                             [**2197-9-12**]  05:58 AM
                             [**2197-9-12**]  09:37 AM
                             [**2197-9-12**]  06:38 PM
                             [**2197-9-13**]  04:08 AM
   WBC
   20.8
   19.3
   18.1
   Hct
   26.8
   26.2
   22.9
   Plt
   377
   357
   300
   Cr
   2.4
   2.3
   2.3
   2.0
   2.0
   1.7
   1.5
   TropT
   <0.01
   0.01
   <0.01
   Glucose
   109
   115
   134
   167
   168
   174
   132
   Other labs: PT / PTT / INR:16.7/45.2/1.5, CK / CKMB /
   Troponin-T:130/7/<0.01, ALT / AST:28/21, Alk Phos / T Bili:94/0.5,
   Amylase / Lipase:29/35, Differential-Neuts:89.9 %, Lymph:5.4 %,
   Mono:2.2 %, Eos:2.4 %, Albumin:2.7 g/dL, LDH:158 IU/L, Ca++:12.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   IMAGING:
   -          MRI L-spine: Mass in post L vertebral body extends into L
   anterior epidural space displacing L5 nerve root posteriorly; mass
   inferior sacrum
   MICRO:
   -          Urine Cx: >100,000 GNR
   -          Blood cx: NGTD
   Assessment and Plan
   62 yo M with fever, change in MS, ARF, and calififed mass in the
   bladder and evidence of scattered lytic lesions.
   .
   # Fever: Pt with UTI, treated empirically in ED with broad spectrum
   abx. Has not dropped BP since arrival, lactate down to 1.8 from 4.4
   after IVF, so less likely to be septic now. Other possibilities include
   CNS infection, although competing causes for both MS as well as fever;
   CXR negative for PNA but dry so infiltrate could blossom, but no
   reported cough.
   - Follow up urine cx: GNR so far
   - Cipro for UTI
   - Blood cx sent from ED
   .
   # Hypernatremia: Total free water deficit approx 6 L. FeNa is < 1%
   suggesting largely pre-renal. Urine osms 262. Appears profoundly
   dehydrated on exam. Na corrected to 152 this AM, currently on D5W at
   200/hr.
   - Goal correction is
 mEq every hour
   .
   # ARF: Pt was obstructed intially given such large UOP after foley
   placed. FeNa pre-renal.
   - No hydro by CT scan
   - Appreciate Renal recs
   - Avoid nephroxins
   - Continue hydration
   .
   # Lytic lesions: Likely mets from bladder ca, but MM also in
   differential. One met noted on L5 vertebra with thecal sac indentation.
   Difficult neuro exam and pt unable to indicate whether he is having sxs
   related to compression but MAE, nl rectal tone; however given urinary
   incontinence, concern for neuro involevement.
   - Stat MRI to evaluate for cauda/cord compression: one nerve root
   impingment
   - Spine consult
   - Decadron given b/c exam unreliable
   - Elevated PSA ? prostate ca
   - SPEP/UPEP: pending
   .
   # Mental status: Received Haldol and morphine in ED in order to obtain
   scans. Now in MICU pt is very somnolent, not following commands.
   Suspect multifactorial etiology: fever/UTI, hypernatremia,
   hypercalcemia. CNS infection is possibility, although low suspicion.
   Now improving this AM.
   - IVF
   - Treat UTI
   - Treat hypercalcemia
   .
   # Bladder mass: New dx. ? primary bladder vs prostate-related (elevated
   PSA).
   - Urine cytology sent
   - Urology c/s: following, will assist with tissue
   - Onc c/s once cytology/tissue obtained
   .
   # Anemia: Guaiac negative in ED.
   - Send off iron studies: does not appear to have iron deficiency anemia
   - Transfuse for Hct < 21 (likely Hct drop in setting of fluid
   resuscitation)
   .
   # Hypercalcemia: Ca [**02**] in setting of lytic lesions seen on CT, which
   could also be contributing to MS.
   - Continue hydration
   - Send off PTH (normal), PTHR-peptide, Vit D, 1,25, TSH (normal)
   - SPEP, UPEP for possible MM: pending
   - Pamidronate and calcitonin per Renal recs
   - Hold diuretic given ARF
   .
   # EKG changes: STD in infero lateral leads, may be rate-related
   ischemia, no STE, first set CE negative.
   - Cycle CE
   .
   # Deconditioning: Pt appears malnourished and chronically ill. Albumin
   low at 2.9
   - Will need TF: hold for now (at risk for refeeding)
   .
   # FEN: NPO for now.
   .
   # PPx: IV H2 blocker, heparin sq, boots
   .
   # Access: PIVs
   .
   # Code status: FULL, confirmed with wife and daughters
   .
   # Communication: Wife [**Name (NI) 203**] [**Name (NI) 1154**] ([**Telephone/Fax (1) 1155**] (cell)
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control: Regular insulin sliding scale
   Lines:
   18 Gauge - [**2197-9-11**] 01:29 PM
   20 Gauge - [**2197-9-11**] 01:30 PM
   Arterial Line - [**2197-9-11**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-9-11**] 01:29 PM
   20 Gauge - [**2197-9-11**] 01:30 PM
   Arterial Line - [**2197-9-11**] 04:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-09-14 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2197-9-13**] 12:45 PM
   -          MR: multilevel cervicothoracic met disease, most sever T2
   with mild retropulsion which appears to contact the anterior thoracic
   cord; multilevel [**Last Name (un) 1220**] disc changes, most severe at T7/8 with disc
   protrusion which compresses ant aspect thoracic cord; Spine aware, NTD
   now
   -          Dex 4 QD started
   -          NS 1 L bolus x 2 for tachy, no change, pt denies pain
   -          S&S eval pending
   -          SPEP negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2197-9-11**] 04:34 PM
   Ciprofloxacin - [**2197-9-14**] 12:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-9-14**] 12:29 AM
   Famotidine (Pepcid) - [**2197-9-14**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-9-14**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 118 (94 - 127) bpm
   BP: 121/62(80) {107/54(70) - 146/70(93)} mmHg
   RR: 22 (15 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  5,978 mL
                                                                  2,814 mL
   PO:
                                                                     90 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  5,888 mL
                                                                  2,714 mL
   Blood products:
   Total out:
                                                                  3,420 mL
                                                                    900 mL
   Urine:
                                                                  3,420 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,558 mL
                                                                  1,914 mL
   Respiratory support
   SpO2: 94%
   ABG: 7.49///24/
   Physical Examination
   Gen:
   HEENT:
   Heart:
   Lungs:
   Abd:
   Ext:
   Neuro:
   Labs / Radiology
   248 K/uL
   6.9 g/dL
   109 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.4 mEq/L
   30 mg/dL
   121 mEq/L
   151 mEq/L
   21.7 %
   18.6 K/uL
        [image002.jpg]
                             [**2197-9-11**]  02:21 PM
                             [**2197-9-11**]  05:05 PM
                             [**2197-9-12**]  12:25 AM
                             [**2197-9-12**]  05:58 AM
                             [**2197-9-12**]  09:37 AM
                             [**2197-9-12**]  06:38 PM
                             [**2197-9-13**]  04:08 AM
                             [**2197-9-14**]  05:36 AM
   WBC
   20.8
   19.3
   18.1
   18.6
   Hct
   26.8
   26.2
   22.9
   21.7
   Plt
   377
   357
   300
   248
   Cr
   2.4
   2.3
   2.3
   2.0
   2.0
   1.7
   1.5
   1.3
   TropT
   <0.01
   0.01
   <0.01
   Glucose
   109
   115
   134
   167
   168
   174
   132
   109
   Other labs: PT / PTT / INR:16.8/69.5/1.5, CK / CKMB /
   Troponin-T:130/7/<0.01, ALT / AST:28/21, Alk Phos / T Bili:94/0.5,
   Amylase / Lipase:29/35, Differential-Neuts:89.9 %, Lymph:5.4 %,
   Mono:2.2 %, Eos:2.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL,
   LDH:158 IU/L, Ca++:10.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.4 mg/dL
   MICRO:
- [**9-11**] Urine cx: Culture workup discontinued. Further incubation showed contamin
ation
         with mixed skin/genital flora. Clinical significance of
   isolate(s)
         uncertain. Interpret with caution.
         GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML..
         GRAM POSITIVE BACTERIA.    10,000-100,000 ORGANISMS/ML..
   - [**9-11**] Blood cx: pending
   IMAGING:
   -          [**9-14**] MRI: multilevel cervicothoracic met disease, most sever
   T2 with mild retropulsion which appears to contact the anterior
   thoracic cord; multilevel [**Last Name (un) 1220**] disc changes, most severe at T7/8 with
   disc protrusion which compresses ant aspect thoracic cord
   -
   Assessment and Plan
   62 yo M with fever, change in MS, ARF, and calcified mass in the
   bladder and evidence of scattered lytic lesions.
   .
   # Fever/UTI: Pt with UTI, treated with cipro. Has not dropped BP since
   arrival, lactate down to 1.8 from 4.4 after IVF, so less likely to be
   septic now. Other possibilities include CNS infection, although
   competing causes for both MS as well as fever; CXR negative for PNA but
   dry so infiltrate could blossom, but no reported cough.
   - Follow up urine cx: GNR so far, but culture contaminated
   - Cipro for UTI
   - Blood cx sent from ED pending
   .
   # Hypernatremia: Total free water deficit on admission approx 6 L. FeNa
   is < 1% suggesting largely pre-renal. Urine osms 262. Appears
   profoundly dehydrated on exam. Na corrected to 152, back up after NS
   boluses for tachycardia
   - Goal correction is
 mEq every hour
   - Continue correction, encourage PO water
   .
   # ARF: Pt was obstructed intially given such large UOP after foley
   placed. FeNa pre-renal.
   - No hydro by CT scan
   - Appreciate Renal recs
   - Avoid nephroxins
   - Continue hydration
   .
   # Metastatic  lesions: ? mets from bladder ca, prostate ca, but MM also
   in differential. One met noted on L5 vertebra with thecal sac
   indentation. Difficult neuro exam and pt unable to indicate whether he
   is having sxs related to compression but MAE, nl rectal tone; however
   given urinary incontinence, concern for neuro involvement.
   - MRI entire spine done
   - Spine consult: reviewed MRI, NTD now, following along
   - Elevated PSA ? prostate ca
   - SPEP: negative
   - UPEP: pending
   .
   # Mental status: Received Haldol and morphine in ED in order to obtain
   scans. Now in MICU pt is very somnolent, not following commands.
   Suspect multifactorial etiology: fever/UTI, hypernatremia,
   hypercalcemia. CNS infection is possibility, although low suspicion.
   Now improving this AM.
   - IVF
   - Treat UTI
   - Treating hypercalcemia
   .
   # Bladder mass: New dx. ? primary bladder vs prostate-related (elevated
   PSA).
   - Urine cytology pending
   - Urology c/s: following, will assist with tissue
   - Onc c/s once cytology/tissue obtained
   .
   # Anemia: Guaiac negative in ED.
   - Send off iron studies: does not appear to have iron deficiency anemia
   - Transfuse for Hct < 21 (likely Hct drop in setting of fluid
   resuscitation)
   .
   # Hypercalcemia: Ca [**02**] in setting of lytic lesions seen on CT, which
   could also be contributing to MS.
   - Continue hydration
   - Send off PTH (normal), PTHR-peptide, Vit D, 1,25, TSH (normal)
   - SPEP, UPEP for possible MM
   - Pamidronate and calcitonin per Renal recs
   - Hold diuretic given ARF
   .
   # Tachycardia: Initially attributed to profound dehydration, was
   improving, overnight persistently tachy to 120 despite NS boluses.
   Other considerations: pain (denies), and PE (sats have always been in
   mid-90s since admission).
   - If tachy persists, consider PE eval (likely needs VQ [**1-7**] renal
   function)
   .
   # Deconditioning/Malnourished: Pt appears malnourished and chronically
   ill. Albumin low at 2.7
   -          Will need TF: hold for now (at risk for refeeding)
   -          Nutrition c/s for recs
   .
   # FEN: Clears/water
   .
   # PPx: IV H2 blocker, heparin sq, boots
   .
   # Access: PIVs
   .
   # Code status: FULL, confirmed with wife and daughters
   .
   # Communication: Wife [**Name (NI) 203**] [**Name (NI) 1154**] ([**Telephone/Fax (1) 1155**] (cell)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-9-11**] 01:29 PM
   Arterial Line - [**2197-9-11**] 04:49 PM
   Prophylaxis:
   DVT:  hep sq, boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now